US07314872B2
(R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid methyl ester (220 mg, 0.60 mmol, 1.0 eq.) was dissolved in a mixture of MeOH (4.5 mL) and H2O (3 mL) and placed in a 0° C. ice bath. Lithium hydroxide (30 mg, 1.25 mmol, 2.1 eq.) was added in one portion and allowed to stir for 8 hours, slowly warming to 23° C. After the reaction was judged complete by LC/MS, methanol was removed by evaporation. Ethyl acetate (75 mL) was added to the resulting solution and was extracted with 1 M HCl (50 mL). The aqueous phase was extracted 2×75 mL of ethyl acetate and the combined organic phases were washed with saturated sodium bicarbonate (50 mL), saturated sodium chloride (50 mL) dried over magnesium sulfate, filtered and evaporated to provide 183 mg of (R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid an yellow oil (0.52 mmol, 86%) and was used directly in the following reaction.

reactant | (R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid methyl ester | 0.60 mmol, 220 mg, 1.0 eq. | COC([C@@H](CC(=O)NCCNC1=CC=C(C=C1)F)CC1CCCCC1)=O | C20H29FN2O3
reactant | Lithium hydroxide | 1.25 mmol, 30 mg, 2.1 eq. | [OH-].[Li+]
solvent | MeOH | 4.5 mL | CO | CH4O
solvent | H2O | 3 mL | O | H2O
product | (R)-2-cyclohexylmethyl-N-[2-(4-fluoro-phenylamino)-ethyl]-succinamic acid | 183 mg | C1(CCCCC1)C[C@@H](C(=O)O)CC(=O)NCCNC1=CC=C(C=C1)F | C19H27FN2O3
